US07094801B2
4-[3E-(4-Ethoxy-2-methoxy-5-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid
The title compound was prepared by condensing 4-ethoxy-2-methoxy-5-thiophen-2-yl-benzaldehyde (Ex-53A) and 4-acetylbenzoic acid in a similar manner as described in Ex-3. Yellow solid, mp 210–212° C., 76% yield. 1H-NMR (300 MHz, DMSO-d6) δ 8.31 (s, 1H), 8.23 (d, 2H, J=9.0 Hz), 8.06–8.11 (m, 3H), 7.92 (d, 1H, J=16.2 Hz), 7.71 (d, 1H, J=3.9 Hz), 7.52 (d, 1H, J=5.1 Hz), 7.13 (dd, 1H, J=5.1, 3.9 Hz), 6.82 (s, 1H), 4.33 (q, 2H, J=6.1 Hz), 3.99 (s, 3H), 1.48 (t, 3H, J=6.1 Hz). MS (ESI) m/z=409 ([M+H]+, 100%). Anal. Calcd. for C23H20O5S.½H2O: C, 66.17; H, 5.07; S, 7.68. Found: C, 65.88; H, 5.24; S, 7.36.

reactant | 4-ethoxy-2-methoxy-5-thiophen-2-yl-benzaldehyde | C(C)OC1=CC(=C(C=O)C=C1C=1SC=CC1)OC | C14H14O3S
reactant | 4-acetylbenzoic acid | C(C)(=O)C1=CC=C(C(=O)O)C=C1 | C9H8O3
product | 4-[3E-(4-Ethoxy-2-methoxy-5-thiophen-2-yl-phenyl)-acryloyl]-benzoic acid | 76% yield | C(C)OC1=CC(=C(C=C1C=1SC=CC1)/C=C/C(=O)C1=CC=C(C(=O)O)C=C1)OC | C23H20O5S
